US05476846
a) 1-(Phenylmethyl)cycloheptanecarbonitrile
Obtained by operating as in example 27b, from 195 mmoles of lithiated diisopropylamine (25.6 g (252.9 mmoles) of diisopropylamine treated with 122 ml (195 mmoles) of n-butyllithium 1.6M in hexane) in 300 ml of dry tetrahydrofuran, 24 g (195 mmoles) of commercial cycloheptanecarbonitrile and 24.6 g (195 mmoles) of benzyl chloride. After distillation, there is obtained 23.2 g (yield=55.8%) of a yellow viscous liquid. b.p.16 =190°-7° C.

reactant | diisopropylamine | 195 mmoles, 1.6M, 122 ml, 25.6 g | C(C)(C)NC(C)C | C6H15N
reactant | diisopropylamine | 252.9 mmoles | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 195 mmoles, 1.6M | C(CCC)[Li]
reactant | cycloheptanecarbonitrile | 195 mmoles, 24 g | C1(CCCCCC1)C#N | C8H13N
reactant | benzyl chloride | 195 mmoles, 24.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(Phenylmethyl)cycloheptanecarbonitrile | 23.2 g, yield=55.8% | C1(=CC=CC=C1)CC1(CCCCCC1)C#N | C15H19N
